US04554349
Cinnamyl 2,3,4-tri-O-acetyl-6-O-methylsulfonyl-1-thio-α-D-mannopyranoside (10)
The title compound is prepared from 2-S-(2,3,4-tri-O-acetyl-6-O-methylsulfonyl-α-D-mannopyranosyl)-2-thiopseudourea and cinnamyl bromide in the usual manner. The desired product is isolated by column chromatography (silica gel; CHCl3 --EtOAc, 92:8, v/v) in 65-70% yield: m.p. 111°-113° C. (ether-petroleum ether); [α]D27 +175±1.1° (C 1.0, chloroform).

reactant | 2-S-(2,3,4-tri-O-acetyl-6-O-methylsulfonyl-α-D-mannopyranosyl)-2-thiopseudourea | C(C)(=O)O[C@@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COS(=O)(=O)C)SC(N)=N | C14H22N2O10S2
reactant | cinnamyl bromide | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Cinnamyl 2,3,4-tri-O-acetyl-6-O-methylsulfonyl-1-thio-α-D-mannopyranoside | C(C)(=O)O[C@@H]1[C@@H](SCC=CC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COS(=O)(=O)C | C22H28O10S2
